US06229011B1
Preparation of 2-iso-propyl-6-methylbenzoic acid
A 250 mL pressure bottle was charged with 2-(1-methylethyl)-6-methyliodobenzene (25.2 mmol, 6.55 g), Pd(OAc)2 (1.2 mmol, 280 mg) and dppp (1.2 mmol, 520 mg). Then, the flask was closed with a septumn and evacuated three times with argon. Then, acetonitrile (96 mL), triethylamine (188.7 mmol, 19.0 g, 26.25 mL) and water (19.1 mL) were added successively by the aid of syringe. Then, the rubber septum was replaced with teflon lined cap connected to a carbon monoxide source. The flask was now pressurized with carbon monoxide (40 psi) and the excess pressure was released. This process was repeated three times and finally the mixture was stirred for 5 min under 40 psi carbon monoxide pressure. The flask was then disconnected from the carbon monoxide cylinder and immersed in a preheated oil bath (83-85° C.). The reaction mixture turned black in 1 hr and was stirred for another 4 hr at this temperature. Then, the reaction mixture was cooled to room temperature, the pressure was released and the mixture was diluted with ether (200 mL) and 1.0N NaOH (10 mL). The acid was extracted into water (2×100 mL). The combined water extracts were neutralized with 1.0N HCl and the acid was extracted into ethyl acetate (2×100 mL). The combined organic extracts were washed with brine solution and dried over MgSO4. Filtration of the drying agent and removal of solvent under vacuum gave 2.8 g (62%) of a viscous yellow oil. HR MS: Obs. mass, 178.0996. Calcd. mass, 178.0994 (M+).

reactant | 2-(1-methylethyl)-6-methyliodobenzene | 25.2 mmol, 6.55 g | CC(C)C1=C(C(=CC=C1)C)I | C10H13I
reactant | acetonitrile | 96 mL | C(C)#N | C2H3N
reactant | triethylamine | 188.7 mmol, 26.25 mL, 19.0 g | C(C)N(CC)CC | C6H15N
reactant | carbon monoxide | [C]=O | CO
reactant | ether | 200 mL | CCOCC | C4H10O
solvent | NaOH | 1.0N, 10 mL | [OH-].[Na+]
catalyst | Pd(OAc)2 | 1.2 mmol, 280 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | dppp | 1.2 mmol, 520 mg | C=1C=CC(=CC1)P(CCCP(C=2C=CC=CC2)C=3C=CC=CC3)C=4C=CC=CC4 | C27H26P2
solvent | water | 19.1 mL | O | H2O
product | 2-iso-propyl-6-methylbenzoic acid | 2.8 g, 62% | C(C)(C)C1=C(C(=O)O)C(=CC=C1)C | C11H14O2
